US06514971B1
A suspension of 4-chloro-6-methoxy-7-[(1-methylimidazol-2-yl)methoxy]cinnoline (109 mg, 0.35 mmol) and 2-fluoro-5-hydroxy-4-methylaniline (70 mg, 0.5mmol), (prepared as described for the starting material in Example 11), in 2-pentanol (3 ml), DMF (0.5 ml) and a 5M solution of hydrogen chloride in isopropanol (74 μl, 0.35 mmol) was heated at reflux for 3 hours. The solution was then cooled to 0° C. and the resulting solid filtered off and washed with ether to give 4-(2-fluoro-5-hydroxy-4-methylanilino)-6-methoxy-7-[(1-methylimidazol-2-yl)methoxy]cinnoline hydrochloride as a yellow solid (124 mg, 73%).

reactant | 4-chloro-6-methoxy-7-[(1-methylimidazol-2-yl)methoxy]cinnoline | 0.35 mmol, 109 mg | ClC1=CN=NC2=CC(=C(C=C12)OC)OCC=1N(C=CN1)C | C14H13ClN4O2
reactant | 2-fluoro-5-hydroxy-4-methylaniline | 0.5mmol, 70 mg | FC1=C(N)C=C(C(=C1)C)O | C7H8FNO
reactant | hydrogen chloride | Cl | ClH
reactant | isopropanol | 0.35 mmol, 74 μl | C(C)(C)O | C3H8O
solvent | 2-pentanol | 3 ml | CC(CCC)O | C5H12O
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | 4-(2-fluoro-5-hydroxy-4-methylanilino)-6-methoxy-7-[(1-methylimidazol-2-yl)methoxy]cinnoline hydrochloride | 124 mg, 73% | Cl.FC1=C(NC2=CN=NC3=CC(=C(C=C23)OC)OCC=2N(C=CN2)C)C=C(C(=C1)C)O | InChI=1S/C21H20FN5O3.ClH/c1-12-6-14(22)16(8-18(12)28)25-17-10-24-26-15-9-20(19(29-3)7-13(15)17)30-11-21-23-4-5-27(21)2;/h4-10,28H,11H2,1-3H3,(H,25,26);1H
